US07994341B2
6.2 g of 9-isopropyl-5-amino-benzonorbornene (Comp. No. Z3.11, syn/anti ratio 90:10; 30 mmol, 1.05 equivalents) and 1.6 g of potassium tert-butoxide (14.7 mmol, 0.5 equivalent) are added to a solution of 6 g of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (29 mmol) in 60 ml of chlorobenzene. The reaction mixture is heated to 95° C. and the chlorobenzene solvent is completely removed in vacuo. The reaction mixture is heated to 120° C. and stirred for 20 hours. 30 ml of chlorobenzene are then added. The organic phase is extracted twice with water, first at low pH, then at high pH. The organic phase is concentrated by distilling off chlorobenzene. 8 g of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid (9-isopropyl-1,2,3,4-tetrahydro-1,4-methano-naphthalen-5-yl)-amide are obtained in the form of a brown oil (crude yield: 33%).

reactant | potassium tert-butoxide | 14.7 mmol, 1.6 g, 0.5 equivalent | CC(C)([O-])C.[K+]
reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 29 mmol, 6 g | C(C)OC(=O)C=1C(=NN(C1)C)C(F)F | C8H10F2N2O2
reactant | chlorobenzene | 60 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid (9-isopropyl-1,2,3,4-tetrahydro-1,4-methano-naphthalen-5-yl)-amide | 8 g | C(C)(C)C1C2CCC1C1=C(C=CC=C21)NC(=O)C=2C(=NN(C2)C)C(F)F | C20H23F2N3O
